US06890947B2
Crude rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid was dissolved in 5 ml N,N-dimethylformamide, 0.54 g of sodium hydrogencarbonate was added followed by 0.32 nm of methyl iodide. The mixture was stirred at r.t. for 7 hours, then poured into ice water and extracted 3 times with ethyl acetate; after drying over MgSO4 and evaporation, the crude product was purified by chromatograph) (silicagel, eluent: gradient of n-heptane/ethyl acetate) to yield 0.47 g of rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester as light yellow oil.

reactant | rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid | N1C=CC2=CC(=CC=C12)CC(C(=O)O)OCCC | C14H17NO3
reactant | sodium hydrogencarbonate | 0.54 g | C(O)([O-])=O.[Na+]
reactant | methyl iodide | CI | CH3I
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | rac-3-(1H-indol-5-yl)-2-propoxy-propionic acid methyl ester | 0.47 g | COC(C(CC=1C=C2C=CNC2=CC1)OCCC)=O | C15H19NO3
